T1

.options savecurrents

Va 1 0 5.2111

R1 1 2 1.0063k

R2 2 3 2.0445k

Gb 5 3 (2,4) 7.13035

R5 5 4 3.049k

R3 2 4 3.0633k

R4 4 0 4.147k

R6 6 8 2.0030k

R7 8 7 1.0243k

Hc 4 7 V0 8.3609

Id 7 5 1.0106m

V0 0 6 0

.control
op

print all
.endc






