*Values
*Units for the values: V, mA, kOhm and mS

* forces current values to be saved
.options savecurrents

***Fonte dependente
Vs 1 3 0 sin(0 15 50 0 0 90)

***Full Wave Rectifier***
Dtl 1 2 Default
Dtr 3 2 Default
Dbl 0 3 Default
Dbr 0 1 Default
*Rrect 2 3 5k

***Envelope detector***
R1 2 0 10k
C 2 0 10u

***Voltage regulator***
R2 2 5 1k
Dr1 5 0 Default_n

.model Default D
.model Default_n D (n=19)
.op
.end

.tran 50m 200m

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

*3)

*4) 
echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 0.2 

***Average***
meas tran yavg AVG v(5) from=50m to=250m

*** max and min v0***
meas tran ymax MAX v(5) from=50m to=250m
meas tran ymin MIN v(5) from=50m to=250m

let vripple_reg = ymax - ymin

print yavg ymax ymin vripple_reg

plot  v(2)
hardcopy vrect.ps v(2)-v(3)
echo vrect_FIG

plot  v(5)
hardcopy vout.ps v(5)
echo vout_FIG

*5)
plot v(5)-12
hardcopy var_output.ps v(5)-12
echo var_output_FIG


plot v(1)-v(3) v(2) v(5)
hardcopy vs_vout.ps v(1)-v(3) v(2) v(5)
echo vs_vout_FIG

quit
.endc
